US09376452B2
2-(3-Benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (SID 99381130, CID 46916265)
To a solution of tert-butyl 2-(3-benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.105 g, 0.24 mmol, 1 equiv.) in DCM (10 mL) was added TFA (0.5 mL, 6.5 mmol, 27 equiv.), and the reaction was stirred at rt for 5 days. The solvent was removed under reduced pressure and the product was purified by preparatory HPLC (0-5% MeOH/DCM), followed by mass-directed reverse-phase chromatography and isolated as a white solid (6 mg, 7% yield). 1H NMR (400 MHz, DMSO) δ 13.11 (s, 1H), 11.39 (s, 1H), 8.05-7.99 (m, 2H), 7.69-7.63 (m, 1H), 7.55 (t, J=7.7 Hz, 2H), 4.62 (s, 2H), 2.71 (s, 2H), 1.22 (s, 6H). LCMS retention time: 2.872 min; LCMS purity at 215 nm=100%. HRMS m/z calculated for C18H19N2O5S [M++1]: 375.1009. found 375.1013.

reactant | tert-butyl 2-(3-benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.24 mmol, 0.105 g, 1 equiv. | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C)=O | C22H26N2O5S
reactant | TFA | 6.5 mmol, 0.5 mL, 27 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Benzoylureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 6 mg, 7% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)O)=O | C18H18N2O5S
